US05432192
Ethyl 3-[N-[3-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)propyl]-N-methylamino]propionate
A mixture of 2.61 g of 5-[3-(methylamino)propylidene]-5H-dibenzo[a,d]cycloheptene, 1.20 g of ethyl acrylate, and 13 ml of ethanol was refluxed for 2 hours. After reaction was completed, the solvent was removed by distillation and the residue was purified by column chromatography on aluminum oxide [n-hexane-diethyl ether (1:1)] to give 3.22 g of slightly yellow viscous liquid.

reactant | 5-[3-(methylamino)propylidene]-5H-dibenzo[a,d]cycloheptene | 2.61 g | CNCCC=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C19H19N
reactant | ethyl acrylate | 1.20 g | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | Ethyl 3-[N-[3-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)propyl]-N-methylamino]propionate | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=CCCN(C)CCC(=O)OCC | C24H27NO2
